US07253192B2
D] 1-[3-(4-Trifluoromethoxy-phenyl)-prop-2-ynyl]-cyclobutanecarboxylic acid ethyl ester
In analogy to the procedure described in example 24E], reaction of 1-prop-2-ynyl-cyclobutanecarboxylic acid ethyl ester and 1-iodo-4-trifluoromethoxybenzene gave the title compound as yellow oil.

reactant | 1-prop-2-ynyl-cyclobutanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CCC1)CC#C | C10H14O2
reactant | 1-iodo-4-trifluoromethoxybenzene | IC1=CC=C(C=C1)OC(F)(F)F | C7H4F3IO
product | 1-[3-(4-Trifluoromethoxy-phenyl)-prop-2-ynyl]-cyclobutanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CCC1)CC#CC1=CC=C(C=C1)OC(F)(F)F | C17H17F3O3
